US07812040B2
N-({trans-3-[2-Fluoro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-N,3,5-trimethylisoxazole-4-carboxamide hydrochloride.
Example 391, ({trans-3-[2-fluoro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)methylamine (200 mg, 0.7 mmol) and triethylamine (0.1 mL, 0.7 mmol) were dissolved in CH2Cl2 (2 mL). 3,5-Dimethylisoxazole-4-carbonyl chloride (109 mg, 0.7 mmol) was added dropwise under stirring. The mixture was stirred at RT for 3 h and sat. K2CO3 was added. The mixture was stirred at RT for 20 h, dried with Na2SO4, and evaporated. The residue was purified chromatographically (silica gel 40-63 μm, 3 g, hexane/CHCl3 20:80→0:100, then CHCl3/MeOH 100:0→95:5). The residue was dissolved in ether (1 mL). 4N HCl/dioxane (0.20 mL) was added, and the reaction mixture was evaporated to dryness. The obtained crystals were washed with ether and dried in vacuo to give the title compound (160 mg, 52%) as yellow crystals. LC/MS data: 416.2 (M+H) (calculated for C23H30FN3O3 415.51). 1H NMR-data (DMSO-d6): 10.64 (br.s, 1H, NH+); 7.13-7.29 (m, 2H, Ar—H); 6.87-7.12 (m, 1H, Ar—H); 4.53-5.07 (m, 1H), 4.38 (br.s, 2H); 3.57-3.67 (m, 1H); 3.37-3.52 (m, 3H); 2.97-3.13 (m, 2H); 2.91 (s, 3H); 2.61-2.78 (m, 1H); 2.28-2.41 (m, 4H); 2.11-2.23 (m, 6H); 1.94-2.06 (m, 2H); 1.79-1.94 (m, 2H).

reactant | ({trans-3-[2-fluoro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)methylamine | 0.7 mmol, 200 mg | FC1=C(O[C@@H]2C[C@H](C2)CNC)C=CC=C1CN1CCCC1 | C17H25FN2O
reactant | triethylamine | 0.7 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-Dimethylisoxazole-4-carbonyl chloride | 0.7 mmol, 109 mg | CC1=NOC(=C1C(=O)Cl)C | C6H6ClNO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-({trans-3-[2-Fluoro-3-(pyrrolidin-1-ylmethyl)phenoxy]cyclobutyl}methyl)-N,3,5-trimethylisoxazole-4-carboxamide hydrochloride | 160 mg, 52% | Cl.FC1=C(O[C@@H]2C[C@H](C2)CN(C(=O)C=2C(=NOC2C)C)C)C=CC=C1CN1CCCC1 | InChI=1S/C23H30FN3O3.ClH/c1-15-21(16(2)30-25-15)23(28)26(3)13-17-11-19(12-17)29-20-8-6-7-18(22(20)24)14-27-9-4-5-10-27;/h6-8,17,19H,4-5,9-14H2,1-3H3;1H/t17-,19-;
